* source EMISSOR_COMUM
C_C3         0 N00372  10u  
V_V1         N00792 0  
+SIN 0 7.0711e-3 1000 0 0 0
Q_Q1         N00320 N00256 N00372 Q2N2222A/ZTX 
R_R1         N00256 N00298  20k  
R_R2         0 N00256  10k  
R_R3         0 N00372  10k  
R_R4         N00320 N00298  10k  
R_R6         N00256 N00564  1k  
V_V2         N00298 0 30
R_R7         0 N00352  10k  
C_C1         N00320 N00352  10u  
C_C2         N00792 N00564  10u  
